US06727249B2
(1R*,2R*,5R*)-8-Benzyl-1-(4-fluorophenyl)-8-azabicyclo[3.2.1]octan-2-ol
(1R*,2R*,5S*,6R*)-8-Benzyl-1-(4-fluorophenyl)-6-phenylsulphonyl-8-azabicyclo[3.2.1]octan-2-ol (Description 14; 10.72 g, 23.77 mmol) was dissolved in THF (200 ml) then cooled to −78° C. and lithium naphthalenide added until a permanent green colour was observed. Each portion was then quenched with saturated ammonium chloride solution then extracted with ethyl acetate (×3) and the extracts dried (MgSO4) and concentrated in vacuo. The extracts were combined to give a yellow oil/solid. This was purified by flash column chromatography [20%-40% ethyl acetate in iso-hexane] to give a yellow solid which was repurified by flash column chromatography [25% ethyl acetate in iso-hexane] to give the title compound as a clear yellow oil (5.37 g, 73%).

reactant | (1R*,2R*,5S*,6R*)-8-Benzyl-1-(4-fluorophenyl)-6-phenylsulphonyl-8-azabicyclo[3.2.1]octan-2-ol | 23.77 mmol, 10.72 g | C(C1=CC=CC=C1)N1[C@@]2([C@@H](CC[C@H]1[C@@H](C2)S(=O)(=O)C2=CC=CC=C2)O)C2=CC=C(C=C2)F | C26H26FNO3S
reactant | lithium naphthalenide | [C-]1=CC=CC2=CC=CC=C12.[Li+]
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | (1R*,2R*,5R*)-8-Benzyl-1-(4-fluorophenyl)-8-azabicyclo[3.2.1]octan-2-ol | 5.37 g, 73% | C(C1=CC=CC=C1)N1[C@@]2([C@@H](CC[C@H]1CC2)O)C2=CC=C(C=C2)F | C20H22FNO
